US05192650
Synthesis of Trihexyl Borate (Compound IO-1)
Reaction is conducted in the same manner as described above except that phenylboric acid or methylboric acid is used instead of boric acid in the above example and a corresponding alcohol or phenol is used instead of hexyl alcohol, and then, the solvent is concentrated under reduced pressure, followed by distillation or crystallization and recrystallization with an appropriate solvent, whereby a corresponding boron compound can be obtained.

reactant | phenylboric acid | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | methylboric acid | COB(O)O | CH5BO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | Trihexyl Borate | B(OCCCCCC)(OCCCCCC)OCCCCCC | C18H39BO3
